US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.073 g, 0.429 mmol) was reacted with 3-azidomethyl-indole (0.089 g, 0.515 mmol) following the general procedure for click reactions outlined above to produce 4-{2-[1-(1H-Indol-3-ylmethyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1Himidazol-2-ylamine hydrochloride (0.086 g, 58%) as a yellow oil. 1H NMR (300 MHz, CD3OD) δ 8.11 (s, 1H), δ 7.84 (m, 2H), δ 7.41 (m, 2H), δ 7.06 (d, 1H), δ 5.66 (s, 2H), δ 3.04 (t, 2H), δ 2.85 (t, 2H) ppm; 13C (75 MHz, CD3OD) δ 147.5, 144.9, 144.8, 134.7, 131.9, 127.2, 127.1, 127.1, 125.8, 125.3, 124.4, 109.5, 49.9, 23.6, 23.2 ppm; HRMS (ESI) calcd for C17H19N7 (M+) 321.1701. found 321.1704.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.429 mmol, 0.073 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | 3-azidomethyl-indole | 0.515 mmol, 0.089 g | N(=[N+]=[N-])CC1=CNC2=CC=CC=C12 | C9H8N4
product | 4-{2-[1-(1H-Indol-3-ylmethyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1Himidazol-2-ylamine hydrochloride | 0.086 g, 58% | Cl.N1C=C(C2=CC=CC=C12)CN1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C16H17N7.ClH/c17-16-19-8-12(20-16)5-6-13-10-23(22-21-13)9-11-7-18-15-4-2-1-3-14(11)15;/h1-4,7-8,10,18H,5-6,9H2,(H3,17,19,20);1H
